US08536183B2
A solution of 1,1-dimethylethyl (2S)-4-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-piperazinecarboxylate (may be prepared as described in Description 23) (1.00 g, 2.05 mmol), potassium carbonate (0.737 g, 5.34 mmol) in 1,4-dioxane (43 ml) were stirred for 5 min then trimethylboroxin (0.743 ml, 5.34 mmol) and Pd(Ph3P)4 (0.403 g, 0.349 mmol) were added and the reaction mixture heated at 100° C. overnight. EtOAc (100 ml) was added, then the mixture was washed with aqueous sodium bicarbonate (100 ml), water (100 ml) and concentrated under vacuum. Flash chromatography (silica; linear gradient (0-20%) EtOAc in isohexane) gave 1,1-dimethylethyl (2S)-2-methyl-4-{[2-methyl-4-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate (0.785 g). This material was re-dissolved in DCM (10 ml) and 1,4-dioxane (3 ml), then HCl in dioxane (5 eq) was added and the mixture stirred at room temperature for 4 h. Aqueous sodium bicarbonate (20 ml) and EtOAc (20 ml) were added and the organic phase washed with aqueous sodium bicarbonate (2×10 ml), brine (10 ml) and dried using a hydrophobic frit. The solvent was removed under vacuum. The residue was re-dissolved in DCM (10 ml) and 1,4-dioxane (3 ml), then 4M HCl in 1,4-dioxane (6.97 mL, 27.9 mmol) added. The mixture was stirred at room temperature for 4 h. The solvent was evaporated under vacuum to give the title compound (0.615 g) as the hydrochloride salt.

reactant | 1,1-dimethylethyl (2S)-4-{[2-bromo-4-(trifluoromethyl)phenyl]sulfonyl}-2-methyl-1-piperazinecarboxylate | 2.05 mmol, 1.00 g | BrC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H22BrF3N2O4S
reactant | potassium carbonate | 5.34 mmol, 0.737 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxin | 5.34 mmol, 0.743 ml | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 43 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.349 mmol, 0.403 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl (2S)-2-methyl-4-{[2-methyl-4-(trifluoromethyl)phenyl]sulfonyl}-1-piperazinecarboxylate | 0.785 g | C[C@@H]1N(CCN(C1)S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)C)C(=O)OC(C)(C)C | C18H25F3N2O4S
